US04051153
Coupling of (R)-(+)-4-tert. butoxy-3-methyl-1butanol p-toluenesulfonate with isobutylmagnesium bromide was carried out using the procedure of Example 47. (R)-(+)-1-tert. Butoxy-2,6-dimethylheptane was obtained in 76% yield as a colorless liquid.

reactant | (R)-(+)-4-tert. butoxy-3-methyl-1butanol p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)OCC[C@H](COC(C)(C)C)C)C | C16H26O4S
reactant | isobutylmagnesium bromide | C(C(C)C)[Mg]Br
product | (R)-(+)-1-tert. Butoxy-2,6-dimethylheptane | 76% yield | C(C)(C)(C)OC[C@@H](CCCC(C)C)C | C13H28O
